US08648066B2
6-bromo-7-methoxyquinazolin-4(3H)-one (53 mg, 0.21 mmol) was taken into thionyl chloride (1.5 mL) followed by addition of catalytic DMF. The mixture was heated to 80° C. for 2 h then concentrated. The residue was partitioned with ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine then dried over anhydrous sodium sulfate, filtered and concentrated to give 6-bromo-4-chloro-7-methoxyquinazoline (36 mg, 62% yield) as a brown solid. MS (EI) for C9H6BrClN2O: 275 (MH+).

reactant | 6-bromo-7-methoxyquinazolin-4(3H)-one | 0.21 mmol, 53 mg | BrC=1C=C2C(NC=NC2=CC1OC)=O | C9H7BrN2O2
reactant | thionyl chloride | 1.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-bromo-4-chloro-7-methoxyquinazoline | 36 mg, 62% yield | BrC=1C=C2C(=NC=NC2=CC1OC)Cl | C9H6BrClN2O
